US05283165
A mixture of 21.1 grams (0.1 mol) of 2-anilinoacetophenone, 31.8 grams (0.28 mol) of ethyl cyanoacetate, and 8 grams (0.13 mol) of ammonium acetate were placed in a reaction flask fitted with a distillation head. The reaction mixture was placed in an oil bath pre-heated to a temperature of 180° C. At a reaction temperature of 100° C. the solid mixture liquified and stirred easily. The internal temperature of the reaction rose to 150° C. over a period of 30 minutes while a colorless distillate was removed. After 30 minutes no further distillate was collected and the product mixture was cooled. To the dark homogeneous liquid product was added 40 mL of absolute ethanol with stirring. The precipitated yellow crystalline product was collected by filtration and washed with 3×10 mL ethanol, 2×25 mL ligroin, and air dried to afford 10.05 grams of crude product. Recrystallization from 80 mL of acetonitrile gave 9.1 grams (35 mmol, 35 % yield) of 3-cyano -1,4-diphenyl-3-pyrrolin-2-one as yellow crystals, m. p.=188°-190° C. Elemental Analysis: Calculated: C=78.44, H=4.65, N=10.76; Found: C=78.36, H=4.90, N=10.81.

reactant | 2-anilinoacetophenone | 0.1 mol, 21.1 grams | N(C1=CC=CC=C1)CC(=O)C1=CC=CC=C1 | C14H13NO
reactant | ethyl cyanoacetate | 0.28 mol, 31.8 grams | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 0.13 mol, 8 grams | C(C)(=O)[O-].[NH4+]
product | 3-cyano -1,4-diphenyl-3-pyrrolin-2-one | 35 mmol, 9.1 grams, 35 % yield | C(#N)C=1C(N(CC1C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H12N2O
